US07378409B2
To a solution of (1R,2S,5R)-2-benzyloxycarbonylamino-5-tert-butoxycarbonylamino-cyclohexanecarboxylic acid (240 mg, 0.6 mmol) in DMF (15 mL) at rt was added HATU (278 mg, 0.73 mmol), pyrrolidine (0.06 mL, 0.73 mmol), and iPr2NEt (0.13 mL, 0.73 mmol). The mixture was stirred at rt for 16 h before water and EtOAc were added. The organic layer was separated and re-washed twice before it was collected, dried over Na2SO4, and concentrated to provide (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(pyrrolidine-1-carbonyl)-cyclohexyl]-carbamic acid benzyl ester as a glassy solid (190 mg, 69%). MS found: (M+H)+=446.

reactant | (1R,2S,5R)-2-benzyloxycarbonylamino-5-tert-butoxycarbonylamino-cyclohexanecarboxylic acid | 0.6 mmol, 240 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C(=O)O | C20H28N2O6
reactant | HATU | 0.73 mmol, 278 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrrolidine | 0.73 mmol, 0.06 mL | N1CCCC1 | C4H9N
reactant | iPr2NEt | 0.73 mmol, 0.13 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(pyrrolidine-1-carbonyl)-cyclohexyl]-carbamic acid benzyl ester | 190 mg, 69% | C(C1=CC=CC=C1)OC(N[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C(=O)N1CCCC1)=O | C24H35N3O5
